US03985722
DL-Glutamic acid 14.7 g was suspended in 75 ml water and 45 ml acetone and then added 8 g of sodium hydroxide. To the solution of the sodium glutamate was added lauric acid-sulfuric acid mixed anhydride with 10 N sodium hydroxide at pH 12 - 13 on the ice bath with stirring. The reaction mixture was stirred for an additional 1 hour, then treated by the same manner as in Example 1. N-Lauroyl-DL-glutamic acid was obtained 19.7 g (59.7 %) M.P. 116° - 119°C.

reactant | DL-Glutamic acid | 14.7 g | NC(CCC(=O)O)C(=O)O | C5H9NO4
reactant | sodium hydroxide | 8 g | [OH-].[Na+]
reactant | sodium glutamate | N[C@@H](CCC(=O)[O-])C(=O)[O-].[Na+].[Na+]
reactant | lauric acid sulfuric acid | C(CCCCCCCCCCC)(=O)O.S(O)(O)(=O)=O
reactant | sodium hydroxide | 10 N | [OH-].[Na+]
solvent | water | 75 ml | O | H2O
solvent | acetone | 45 ml | CC(=O)C | C3H6O
product | N-Lauroyl-DL-glutamic acid | C(CCCCCCCCCCC)(=O)NC(CCC(=O)O)C(=O)O | C17H31NO5
